US06150373
A mixture of 100 mg (0.26 mmol) of 3-(2,6-dichlorophenyl)-3,4-dihydro-7-methanesulfonyl-1-methylpyrimido[4,5-d]pyrimidin-2(1H)-one and 238 mg (1.07 mmol) of 4-(2-diethylaminoethoxy)benzylamine was heated at 170° C. for 30 minutes. The product was purified by flash column chromatography using dichloromethane/methanol/water/acetic acid (120:14:3:2) for the elution. Product-containing fractions were combined and evaporated to give 40 mg (29%) of 3-(2,6-dichlorophenyl)-7-[4-[2-(diethylamino)ethoxy]benzylamino]-3,4-dihydro-1-methylpyrimido[4,5-d]pyrimidin-2(1H)-one as a white solid of melting point 137-138° C.

reactant | 3-(2,6-dichlorophenyl)-3,4-dihydro-7-methanesulfonyl-1-methylpyrimido[4,5-d]pyrimidin-2(1H)-one | 0.26 mmol, 100 mg | ClC1=C(C(=CC=C1)Cl)N1C(N(C2=NC(=NC=C2C1)S(=O)(=O)C)C)=O | C14H12Cl2N4O3S
reactant | 4-(2-diethylaminoethoxy)benzylamine | 1.07 mmol, 238 mg | C(C)N(CCOC1=CC=C(CN)C=C1)CC | C13H22N2O
product | 3-(2,6-dichlorophenyl)-7-[4-[2-(diethylamino)ethoxy]benzylamino]-3,4-dihydro-1-methylpyrimido[4,5-d]pyrimidin-2(1H)-one | 40 mg, 29% | ClC1=C(C(=CC=C1)Cl)N1C(N(C2=NC(=NC=C2C1)NCC1=CC=C(C=C1)OCCN(CC)CC)C)=O | C26H30Cl2N6O2
